US04139710
The pH of the 4-chloro-2-fluorophenylhydrazine hydrochloride slurry was adjusted to 3.8-4.0 and the temperature was raised to 90°-95°. To this mixture was added an aqueous solution (preheated to 90°-95°) of 1118 parts of cyclohexanone-2-carboxamide prepared as previously described. The resulting mixture was heated for 1-2 hr at 90°-95° during which time the product precipitated from solution. The product was isolated by filtration, washed by digestion with toluene and air-dried to give 1771 parts of an indazolone, an off-white solid mp 179-182 which was 2-(4-chloro-2-fluorophenyl)-1,2,4,5,6,7-hexahydro-3H-indazol-3-one.

reactant | 4-chloro-2-fluorophenylhydrazine hydrochloride | Cl.ClC1=CC(=C(C=C1)NN)F
reactant | cyclohexanone-2-carboxamide | C1CCC(=O)C(C1)C(=O)N | C7H11NO2
product | indazolone | N1=NC(C2=CC=CC=C12)=O | C7H4N2O
